US06613903B2
Diisopropylethylamine (1.8 ml, 10.3 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (760 mg, 4.0 mmol) were added to a mixture of 1-benzyl-1H-indole-3-carboxylic acid (902 mg, 3.6 mmol) in tetrahydrofuran (50 ml). After stirring for 1 hour, the solution was cooled to 0° C. and a solution of 2-amino-7-aminomethyl-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester (700 mg, 1.7 mmol) in tetrahydrofuran (7 ml) was added dropwise. The reaction was allowed to slowly warm to room temperature. After 8 hours of stirring the solution was concentrated in vacuo and the residue dissolved in ethyl acetate (40 ml), washed with saturated aqueous sodium bicarbonate (2×30 ml), brine (1×30 ml), dried (MgSO4), filtered, and the solvent evaporated in vacuo. The residue was purified by silica gel chromatography using a mixture of hexane/ethyl acetate/triethylamine, (50:50:1) as eluent, which afforded 560 mg (51%) of 2-amino-7-(((1-benzyl-1H-indole-3-carbonyl)amino)methyl)-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester as a solid.

reactant | Diisopropylethylamine | 10.3 mmol, 1.8 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 4.0 mmol, 760 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-benzyl-1H-indole-3-carboxylic acid | 3.6 mmol, 902 mg | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C(=O)O | C16H13NO2
reactant | 2-amino-7-aminomethyl-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester | 1.7 mmol, 700 mg | C(C)(C)(C)OC(=O)C1=C(SC=2C(N(CCC21)CC2=CC=C(C=C2)OC)CN)N | C21H29N3O3S
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | 2-amino-7-(((1-benzyl-1H-indole-3-carbonyl)amino)methyl)-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester | 560 mg, 51% | C(C)(C)(C)OC(=O)C1=C(SC=2C(N(CCC21)CC2=CC=C(C=C2)OC)CNC(=O)C2=CN(C1=CC=CC=C21)CC2=CC=CC=C2)N | C37H40N4O4S
